* Z:\mnt\design.r\spice\examples\1443.asc
V1 N001 0 3.3
V2 IN 0 PULSE(1 1.3 0 50m 50m 0 100m)
XU1 OUT N001 IN N002 N002 0 0 LTC1443
.tran 300m
.lib LTC.lib
.backanno
.end
